US09056859B2
To a mixture ethyl [5-(1H-tetrazol-1-yl)pyridin-2-yl]acetate (0.19 g, 0.81 mmol) in THF (4 mL) was added 1.4 M LiOH (aq.) (2.9 mL) at room temperature. The mixture was stirred 3 hours at room temperature. The reaction was acidified with citric acid until pH about 3-4. The mixture was extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated to give [5-(1H-tetrazol-1-yl)pyridin-2-yl]acetic acid. 1H-NMR (400 MHz, MeOD) δ 9.83 (s, 1H), 9.02 (s, 1H), 8.28 (d, J=8.8 Hz, 1H), 7.68 (d, J=8.8 Hz, 1H), 3.95 (s, 2H).

reactant | ethyl [5-(1H-tetrazol-1-yl)pyridin-2-yl]acetate | 0.81 mmol, 0.19 g | N1(N=NN=C1)C=1C=CC(=NC1)CC(=O)OCC | C10H11N5O2
reactant | LiOH | 1.4 M, 2.9 mL | [Li+].[OH-]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | [5-(1H-tetrazol-1-yl)pyridin-2-yl]acetic acid | N1(N=NN=C1)C=1C=CC(=NC1)CC(=O)O | C8H7N5O2
